US04895973
When 78 g (0.317 mole) of 10-phenylundecanal was treated with lithioethyl acetate according to the procedure for the preparation of 3(R=CH3, m=12) 73.8 g (70% yield) of 3-hydroxy-12-phenyltridecanoic acid ethyl ester was obtained; δ (CDCl3) 1.28 (m, CH2), 2.1-2.6 (m, phenyl CH, CH2CO), 3.98-4.33 (CHOH, OCH2) and 7.20-7.22 (m, phenyl). This compound could be used without further purification.

reactant | 10-phenylundecanal | 0.317 mole, 78 g | C1(=CC=CC=C1)C(CCCCCCCCC=O)C | C17H26O
reactant | lithioethyl acetate | C(C)(=O)OCC[Li]
product | 3-hydroxy-12-phenyltridecanoic acid ethyl ester | 73.8 g, 70% yield | C(C)OC(CC(CCCCCCCCC(C)C1=CC=CC=C1)O)=O | C21H34O3
